US04933333
3.10 g of trans-1-(p-nitrobenzyloxycarbonyl)-4-hydroxy-L-proline and 1.10 g of triethylamine were dissolved in 40 ml of dried tetrahydrofuran, and a solution of 1.20 g of ethyl chloroformate in 10 ml of dried tetrahydrofuran was added dropwise thereto at -25° C. to -35° C. After stirring at the same temperature for 50 minutes, 10 ml of concentrated aqueous ammonia was added dropwise to the mixture at -25° to -40° C. The temperature was then gradually elevated to room temperature, and the reaction mixture was stirred for 1 hour, followed by concentration under reduced pressure. To the residue were added 20 ml of water and 50 ml of diethyl ether. After ice-cooling, the thus formed white crystals were separated by filtration, washed successively with cool water and cool diethyl ether, and dried under reduced pressure to yield trans-1-(p-nitrobenzyloxycarbonyl)-4-hydroxy-L-prolineamide.

reactant | trans-1-(p-nitrobenzyloxycarbonyl)-4-hydroxy-L-proline | 3.10 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@H](C(=O)O)C[C@H](C2)O)C=C1 | C13H14N2O7
reactant | triethylamine | 1.10 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.20 g | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 10 ml | N | H3N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | trans-1-(p-nitrobenzyloxycarbonyl)-4-hydroxy-L-prolineamide | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@H](C(=O)N)C[C@H](C2)O)C=C1 | C13H15N3O6
